US09334284B2
The reaction of 4-fluoroaniline and 3-fluorobenzaldehyde in TFA and acetonitrile provided the N-3-fluorobenzylidene-4-fluoroaniline. The cyclopentadiene was separately prepared from its dimer dicyclopentadiene. The dimer was heated at 180° C. to give monomer, which was reacted with N-3-fluorobenzylidene-4-fluoroaniline in acetonitrile in presence of TFA to provide the desired difluoro compound 100.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-3-fluorobenzylidene-4-fluoroaniline | FC=1C=C(C=NC2=CC=C(C=C2)F)C=CC1 | C13H9F2N
